US07935688B2
(1) Synthesis of (3-bromo-4-hydroxy-5-methoxy-phenyl)-acetic Acid Methyl Ester
Trimethylsilyldiazomethane (2 M solution in diethyl ether, 0.409 mL, 0.818 mmol) was added to a solution of (3-bromo-4-hydroxy-5-methoxy-phenyl)-acetic acid (150 mg, 0.575 mmol) in methanol (1 mL) and toluene (4 mL), and the mixture was stirred at room temperature for 30 minutes. Acetic acid was added to the reaction mixture to terminate the reaction, and then the mixture was concentrated under reduced pressure to give the target compound as a colorless oil (158 mg, 99%).

reactant | Trimethylsilyldiazomethane | 0.818 mmol, 2 M, 0.409 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | (3-bromo-4-hydroxy-5-methoxy-phenyl)-acetic acid | 0.575 mmol, 150 mg | BrC=1C=C(C=C(C1O)OC)CC(=O)O | C9H9BrO4
reactant | Acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 1 mL | CO | CH4O
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | (3-bromo-4-hydroxy-5-methoxy-phenyl)-acetic Acid Methyl Ester | 158 mg, 99% | COC(CC1=CC(=C(C(=C1)OC)O)Br)=O | C10H11BrO4
